US08227431B2
Preparation of (2R,4R)-5-(6-(cyclopropylamino)-9H-purin-9yl)-4-fluoro-tetrahydro-2-(hydroxymethyl)-3,4-dimethylfuran-3-ol
A solution of ((2R,4R)-3-acetoxy-5-(6-(cyclopropylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate (about 0.25 g, 0.51 mmol) in methanolicammonia (25% w/w 5 ml) was stirred at room temperature for overnight. Completion of the reaction mixture monitored by thin-layer chromatography, water added to the reaction mixture and the aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine and dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 25% ethyl acetate in hexane as eluent furnished title compound (0.14 g) as a colorless gummy mass. Yield: 80%; 1H-NMR: 1H NMR (300 MHz, CDCl3): δ 8.45 (s, 1H), 8.01 (d, 1H, J=3.3 Hz), 6.60 (d, 1H, J=22.8 Hz), 6.36 (bs, 1H), 4.30-4.29 (m, 1H), 4.23-4.08 (m, 3H), 3.04 (m, 1H), 1.37 (s, 3H), 1.26 (d, 3H, J=2.4 Hz), 0.95-0.92 (m, 2H), 0.68 (m, 2H); ES Mass: [M+1]+338 (100%); IR cm−: 3512, 3055, 2933, 1745, 1384, 1113, 742, 703; HPLC: 93%.

reactant | ((2R,4R)-3-acetoxy-5-(6-(cyclopropylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 0.51 mmol, about 0.25 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)NC1CC1 | C24H26FN5O5
solvent | water | O | H2O
product | (2R,4R)-5-(6-(cyclopropylamino)-9H-purin-9yl)-4-fluoro-tetrahydro-2-(hydroxymethyl)-3,4-dimethylfuran-3-ol | 0.14 g, Yield: 80% | C1(CC1)NC1=C2N=CN(C2=NC=N1)C1[C@](C([C@H](O1)CO)(O)C)(C)F | C15H20FN5O3
